US04594343
α,α-Diphenyl-1-phenylmethyl-3-pyrrolidineacetamide
To 250 ml of concentrated sulfuric acid under agitation was added, slowly at 70° C., 170 g (0.48 mole) of α-(1-benzyl-3-pyrrolidinyl)-α,α-diphenylacetonitrile. Stirring was continued for 16 hr at 75°-80° C. The solution was cooled and poured into a mixture of ice, 50% sodium hydroxide solution and chloroform. The chloroform layer was separated and the aqueous phase extracted three more times with chloroform. The combined chloroform layers were dried and concentrated in vacuo to give 188 g of residual oil. A portion of the oil was crystallized in isopropanol and the solid recrystallized from a mix of isopropanol and isopropyl ether to give a light brown solid, m.p. 135°-138° C.

reactant | sulfuric acid | 250 ml | S(O)(O)(=O)=O | H2O4S
reactant | α-(1-benzyl-3-pyrrolidinyl)-α,α-diphenylacetonitrile | 0.48 mole, 170 g | C(C1=CC=CC=C1)N1CC(CC1)C(C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | α,α-Diphenyl-1-phenylmethyl-3-pyrrolidineacetamide | 188 g | C1(=CC=CC=C1)C(C(=O)N)(C1CN(CC1)CC1=CC=CC=C1)C1=CC=CC=C1 | C25H26N2O
